US08030302B2
Ethyl 5-(bromomethyl)-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
To a solution of ethyl 2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (1.2 g, 4.3 mmol) and azobisisobutyronitrile (AIBN) (0.09 g, 0.06 mmol) in DCM is added N-bromosuccinimide (NBS) (0.9 g, 4.3 mmol) in three portions at RT. The resulting reaction mixture is stirred at RT overnight. The mixture is concentrated and the residue is purified by silica gel column chromatography eluting with PE:EtOAc (4:1) to give the product as a white solid (1.3 g, 84% yield). MS (m/z) 357.0 (M+H).

reactant | ethyl 2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 4.3 mmol, 1.2 g | FC1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)OCC)C)C | C14H15FN2O3
reactant | azobisisobutyronitrile | 0.06 mmol, 0.09 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 4.3 mmol, 0.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Ethyl 5-(bromomethyl)-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 1.3 g, 84% yield | BrCC1=C(C(N(N1C)C1=CC=C(C=C1)F)=O)C(=O)OCC | C14H14BrFN2O3
